US07338960B2
Ethyl 3-{4[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}propanoate
To a stirred solution of the 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol (50 mg, 0.16 mmol) and ethyl 3-(4-hydroxyphenyl)propanoate (31 mg, 0.16 mmol) in anhydrous THF (3.2 mL) under nitrogen at 0° C. (ice/water bath) was added ADDM (83 mg, 0.32 mmol). After a few minutes, nBu3P (81 μL, 0.32 mmol) was added (drop-wise) and the solution was stirred at 0° C. warming to rt overnight. After 17.5 hours the solvent was concentrated under vacuum and the solid residue dissolved in DCM (5 mL) and washed with water (5 mL) using a hydrophobic frit. The aqueous layer was re-extracted with DCM (5 mL) and the combined organic layers concentrated under vacuum. The resulting solid residue was then purified by SPE (silica, 5 g cartridge) eluting with cyclohexane:EtOAc (gradient 100:1 to 1:1) to afford the title compound (29 mg).

reactant | 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 0.16 mmol, 50 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)O)(F)F | C17H18F3NO
reactant | ethyl 3-(4-hydroxyphenyl)propanoate | 0.16 mmol, 31 mg | OC1=CC=C(C=C1)CCC(=O)OCC | C11H14O3
reactant | nBu3P | 0.32 mmol, 81 μL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | THF | 3.2 mL | C1CCOC1 | C4H8O
product | Ethyl 3-{4[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}propanoate | 29 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)OC1=CC=C(C=C1)CCC(=O)OCC)(F)F | C28H30F3NO3
